US04859229
using 3-(4-chloro-2-fluoro-5-hydroxyphenyl)-1-methyl-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione with α-bromoacetophenone and sodium hydride in dimethylformamide there is obtained 3-[4-chloro-2-fluoro-5-(phenacyloxy)-phenyl]-1-methyl-6 -trifluoromethyl-2,4(1H,3H)-pyrimidinedione, m.p. 152°-153° C.;

reactant | 3-(4-chloro-2-fluoro-5-hydroxyphenyl)-1-methyl-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione | ClC1=CC(=C(C=C1O)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F | C12H7ClF4N2O3
reactant | α-bromoacetophenone | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
reactant | sodium hydride | [H-].[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 3-[4-chloro-2-fluoro-5-(phenacyloxy)-phenyl]-1-methyl-6 -trifluoromethyl-2,4(1H,3H)-pyrimidinedione | ClC1=CC(=C(C=C1OCC(=O)C1=CC=CC=C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F | C20H13ClF4N2O4
